US06221902B1
4-[4′-(2-Benzyl-benzofuran-3-yl)-3,5-dimethyl-biphenyl-4-yloxysulfonyl]-2-hydroxy-benzoic acid
The title compound was prepared from 4′-(2-benzyl-benzofuran-3-yl)-3,5-dimethyl-biphenyl-4-ol and 4-chlorosulfonyl-2-hydroxy-benzoic acid, in substantially the same manner, as described in Example 1 step g, and was obtained as a white solid, mp 165-167° C.; MS m/e 603 (M-H)+;

reactant | 4′-(2-benzyl-benzofuran-3-yl)-3,5-dimethyl-biphenyl-4-ol | C(C1=CC=CC=C1)C=1OC2=C(C1C1=CC=C(C=C1)C1=CC(=C(C(=C1)C)O)C)C=CC=C2 | C29H24O2
reactant | 4-chlorosulfonyl-2-hydroxy-benzoic acid | ClS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O | C7H5ClO5S
product | 4-[4′-(2-Benzyl-benzofuran-3-yl)-3,5-dimethyl-biphenyl-4-yloxysulfonyl]-2-hydroxy-benzoic acid | C(C1=CC=CC=C1)C=1OC2=C(C1C1=CC=C(C=C1)C1=CC(=C(C(=C1)C)OS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O)C)C=CC=C2 | C36H28O7S
